US09079894B2
Step (i): Preparation of N-(1-cyclopropyl piperidine-4-carbonyl)-N′-(5-amino-6-chloro chroman-8-carbonyl) hydrazine
To a stirred solution of 5-amino-6-chloro chroman-8-carboxylic acid hydrazide (8.0 grams, 33.1 mmol, obtained in preparation 1) in dichloromethane (200 mL) cooled at 0° C., was added triethylamine (13.9 mL, 99.9 mmol) and a solution of 1-cyclopropylpiperidine-4-carbonyl chloride (11.0 grams) in dichloromethane (200 mL). The reaction mixture was warmed to room temperature and stirred for 16 hours before diluting it with water (160 mL). The two layers were separated, the organic layer was dried over anhydrous sodium sulphate and the volatiles were removed under reduced pressure to obtain the title compound (10.5 grams).

reactant | 5-amino-6-chloro chroman-8-carboxylic acid hydrazide | 33.1 mmol, 8.0 grams | NC1=C2CCCOC2=C(C=C1Cl)C(=O)NN | C10H12ClN3O2
reactant | triethylamine | 99.9 mmol, 13.9 mL | C(C)N(CC)CC | C6H15N
reactant | 1-cyclopropylpiperidine-4-carbonyl chloride | 11.0 grams | C1(CC1)N1CCC(CC1)C(=O)Cl | C9H14ClNO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | 160 mL | O | H2O
product | N-(1-cyclopropyl piperidine-4-carbonyl)-N′-(5-amino-6-chloro chroman-8-carbonyl) hydrazine | 10.5 grams, Yield: 81% | C1(CC1)N1CCC(CC1)C(=O)NNC(=O)C=1C=C(C(=C2CCCOC12)N)Cl | C19H25ClN4O3
